US07598286B2
Step C: [3-(tert-Butyl-diphenyl-silanyloxy)-phenyl]-(1-isobutyl-1H-indazol-3-yl)-methanone
(3-{[tert-butyl(diphenyl)silyl]oxy}phenyl)(1H-indazol-3-yl)methanone (0.67 g, 0.0014 mol) was dissolved in DMF (10 mL). Sodium hydride (66%, 0.042 g, 0.0017 mol) was added, and the reaction was stirred until gas evolution stops. 1-iodo-2-methylpropane (0.242 mL, 0.0021 mol) was added. The reaction was stirred at room temperature overnight. The reaction is quenched with water and extracted with ethyl acetate. The desired product (0.650 g, 0.0012 mol, 87%) is isolated by chromatography with hexane/ethyl acetate (10:1).

reactant | (3-{[tert-butyl(diphenyl)silyl]oxy}phenyl)(1H-indazol-3-yl)methanone | 0.0014 mol, 0.67 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC=1C=C(C=CC1)C(=O)C1=NNC2=CC=CC=C12 | C30H28N2O2Si
reactant | Sodium hydride | 0.0017 mol, 0.042 g | [H-].[Na+]
reactant | 1-iodo-2-methylpropane | 0.0021 mol, 0.242 mL | ICC(C)C | C4H9I
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | [3-(tert-Butyl-diphenyl-silanyloxy)-phenyl]-(1-isobutyl-1H-indazol-3-yl)-methanone | 0.0012 mol, 0.650 g, 87% | C(C)(C)(C)[Si](OC=1C=C(C=CC1)C(=O)C1=NN(C2=CC=CC=C12)CC(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H36N2O2Si
